US07262212B2
Potassium carbonate (1.45 g, 10.47 mmol) and 4-chlorobenzyl chloride (1.82 g, 8.86 mmol) were added to a solution of tert-butyl piperazine-1-carboxylate (1.5 g, 8.05 mmol) in DMF (10 ml), and the mixture was stirred at 50° C. for 1 hour. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with water, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/ethyl acetate=9/1) to afford tert-butyl 4-(4-chlorobenzyl)piperazine-1-carboxylate (2.50 g, quantitative) as a colorless oil.

reactant | Potassium carbonate | 10.47 mmol, 1.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobenzyl chloride | 8.86 mmol, 1.82 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | tert-butyl piperazine-1-carboxylate | 8.05 mmol, 1.5 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(4-chlorobenzyl)piperazine-1-carboxylate | 2.50 g | ClC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H23ClN2O2
